US08110581B2
Step 2. Methyl 4-{1-oxo-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]dec-2-yl}piperidine-1-carboxylate
Methyl chloroformate (4.4 μL, 0.000057 mol) was added to a solution of 2-piperidin-4-yl-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one (18.3 mg, 0.0000478 mol) and N,N-diisopropylethylamine (27 μL, 0.00016 mol) in methylene chloride (1.0 mL, 0.016 mol); and the mixture was stirred for 0.5 h. The volatiles were removed in-vacuo and the product was purified by prep-HPLC. LC-MS: 441.2 (M+H)+.

reactant | Methyl chloroformate | 0.000057 mol, 4.4 μL | ClC(=O)OC | C2H3ClO2
reactant | 2-piperidin-4-yl-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one | 0.0000478 mol, 18.3 mg | N1CCC(CC1)N1C(C2(CC1)CN(CCC2)C2=NC=C(C=C2)C(F)(F)F)=O | C19H25F3N4O
reactant | N,N-diisopropylethylamine | 0.00016 mol, 27 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylene chloride | 0.016 mol, 1.0 mL | C(Cl)Cl | CH2Cl2
product | Methyl 4-{1-oxo-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]dec-2-yl}piperidine-1-carboxylate | O=C1N(CCC12CN(CCC2)C2=NC=C(C=C2)C(F)(F)F)C2CCN(CC2)C(=O)OC | C21H27F3N4O3
